resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.998989
R2 0 n2 0.992652
R3 0 n4 0.9886
R4 n1 n3 1.009002
R5 n1 n5 1.002513
R6 n2 n3 0.988451
R7 n2 n6 0.993273
R8 n3 n7 1.001279
R9 n4 n5 1.010468
R10 n4 n6 0.999245
R11 n5 n7 1.009666
R12 n6 n7 0.996277
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
